US07612075B2
C. 1-(4-Amino-quinazolin-7-ylmethyl)-4-benzyloxycarbonyl-3-(S)-(2-methylsulfanyl-ethyl)-piperazin-2-one.
To a solution of 4-benzyloxycarbonyl-1-[3-(benzhydrylidene-amino)-4-cyano-benzyl]-3-(S)-(2-methylsulfanyl-ethyl)-piperazin-2-one (1.17 g, 2.67 mmol) in 15 ml of ethanol is added 1,3,5-triazine and glacial acetic acid (3.1 ml, 53.4 mmol). The resulting solution is refluxed for 20 hours, concentrated under vacuum. The residue is dissolved in ethyle acetate, washed with 1N hydrochloric acid, a saturated aqueous NaHCO3 solution, water, brine. The solution is dried over MgSO4, concentrated. The resulting crude product is purified by column chromatography eluting with a gradient of 5% MeOH:CH2Cl2 to 10% MeOH:CH2Cl2. The title compound (489 mg, 39% yield) is obtained as a yellow solid.

reactant | 4-benzyloxycarbonyl-1-[3-(benzhydrylidene-amino)-4-cyano-benzyl]-3-(S)-(2-methylsulfanyl-ethyl)-piperazin-2-one | 2.67 mmol, 1.17 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(N(CC1)CC1=CC(=C(C=C1)C#N)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCSC | C36H34N4O3S
reactant | 1,3,5-triazine | N1=CN=CN=C1 | C3H3N3
reactant | acetic acid | 53.4 mmol, 3.1 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-(4-Amino-quinazolin-7-ylmethyl)-4-benzyloxycarbonyl-3-(S)-(2-methylsulfanyl-ethyl)-piperazin-2-one | 489 mg, 39% yield | NC1=NC=NC2=CC(=CC=C12)CN1C([C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)CCSC)=O | C24H27N5O3S
